Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male PMH HTN, new dx of JAK2+ MPN. Plts >1million, 
on
aspirin, iron deficiency anemia, not currently on cytoreductive
therapy, p/w hematuria two days of hematuria, but currently
denies hematuria. He did pass blood clots yesterday. Patient 
does
endorse dysuria for quite a while, but increased in
frequency/intensity recently. Patient denies urinary retention,
but does endorse urinary retention. Denies back pain, abdominal,
n/v/d/c. Denies chest pain. Does endorse mild DOE and fatigue
with exertion. 

In the ED, initial VS were 99.0 79 160/63 16 98% on RA.
Labs notable for K of 5.5, Cr of 1.1, WBC 21.7, Plt 1231.
Troponin negative x 1. UA notable for moderate blood, small leuk
esterase, few bacteria. LFTS pending. Lactate 1.8. 
Bilateral LENIs show no evidence of DVT. 
Hematology was consulted and recommended no urgent intervention,
continuation of aspirin, and IV hydration.

Upon arrival to the floor, the patient tells the story as
follows. He reports that he was recently told that his platelets
were elevated and started on iron and aspirin. Yesterday, he
began to have discoloration of his urine and dark tarry stools
which he attributed to the iron. He then saw that he had 
bleeding
in his urine, which was later accompanied by the feeling that he
could not pass urine with some suprapubic pain. He otherwise
denies dizziness, lightheadedness, chest pain, fever, cough,
rashes, bruises. He endorses shortness of breath occurring with
exertion over the last year, generalized fatigue, and some left
calf pain that occurs with exertion (but doesn't persist if he
continues to exercise).  He has pitting edema of both legs but 
he
is unsure how long that has been present.

 
Past Medical History:
- JAK2+ Myleoproliferative disorder
- Benign prostatic hyperplasia s/p TURP in ___
- Colon polyps
- Esophageal stricture/dysphagia
- GERD
- Hypercholesterolemia
- Left shoulder pain
- Generalized Anxiety Disorder
 
Social History:
___
Family History:
Sister and mother with breast cancer. No family
history of bleeding or clotting disorders.

 
Physical Exam:
Physical exam on admission:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation in all
quadrants, no suprapubic tenderness
BACK: no flank pain
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
EXT: + pitting edema up to the mid shin bilaterally
PSYCH: pleasant, appropriate affect

Physical exam on discharge
Gen: NAD. Alert and oriented x 3
CV: RRR, +S1, S2, no murmurs
Resp: CTA B/L with mild bibasilar crackles
Ab: Soft, NT, ND, normoactive BS
GU: No suprapubic TTP. Foley draining clear yellow colored urine
Ex: Symmetric 1+ pitting edema distal to mid ankle B/L 
(unchanged from prior exam)
 
Pertinent Results:
ADMISSION LABS:
___ 05:10PM   GLUCOSE-116* UREA N-16 CREAT-1.1 SODIUM-135 
POTASSIUM-5.5* CHLORIDE-97 TOTAL CO2-27 ANION GAP-11
___ 10:06PM   ALT(SGPT)-17 AST(SGOT)-31 LD(LDH)-605* ALK 
PHOS-94 TOT BILI-0.3
___ 10:06PM   ALBUMIN-4.7 URIC ACID-6.5
___ 09:41PM   K+-3.6
___ 05:10PM   WBC-21.7* RBC-6.41* HGB-14.2 HCT-45.7 MCV-71* 
MCH-22.2* MCHC-31.1* RDW-17.7* RDWSD-40.7
___ 05:10PM   NEUTS-86.4* LYMPHS-8.8* MONOS-3.0* EOS-0.4* 
BASOS-0.5 IM ___ AbsNeut-18.72* AbsLymp-1.91 AbsMono-0.65 
AbsEos-0.08 AbsBaso-0.10*
___ 05:10PM   PLT SMR-VERY HIGH* PLT COUNT-1231*
___ 05:10PM   ___ PTT-42.9* ___
___ 06:42PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 06:42PM URINE  RBC->182* WBC-8* BACTERIA-FEW* 
YEAST-NONE EPI-0

HCV Ab neg
Hep B Surface Ag, Ab and Core Ab neg
HIV Ab neg
Hapto: 114

GU US (___)
1.  Normal kidney without evidence of stone or hydronephrosis.. 
2.  Calculated prostatic volume of 155cm3.  The predicted PSA is 
18.6ng/ml. 
3. Collapsed bladder around a Foley catheter with intraluminal 
echogenic 
material suggesting hemorrhagic products. 

CXR (___)
No acute cardiopulmonary process.

B/L ___ US (___)
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins. 
2. In the lateral left popliteal fossa, at the site of patient's 
pain, a 1.5 cm region of fluid is nonspecific and may represent 
a ganglion cyst or fluid within a bursa. 

 
Brief Hospital Course:
___ yo M PMHx HTN, BPH s/p TURP, new dx of JAK2+ MPN (plts > 1 
million, on aspirin), not currently on cytoreductive therapy, 
iron deficiency anemia, who presented with hematuria.

# Hematuria: 
Suspect hematuria occurring in the setting of ineffective 
platelets and ___ enlarged prostate.  He was seen by Urology and 
Hematology in consultation.  Renal and bladder ultrasound 
without notable abnormality or clots.  A foley was placed and 
subsequently removed.  Hematuria resolved without acute 
intervention.  Patient passed a voiding trial prior to 
discharge.  He was recommended to follow-up with his outpatient 
Urologist for further evaluation.  Blood counts remained stable. 
  

# JAK2+ Myeloproliferative disorder, thrombophilia: 
# Likely polycythemia ___ diagnosed in the outpatient setting (through Atrius). 
No evidence of clotting at this time, with negative bilateral 
lower extremity ultrasounds.  He was seen by Hematology in 
consultation.  He was started on hydrea 500 mg daily, in 
addition to continuing aspirin 81 mg daily.  He will follow-up 
with Hematology Oncology at At___ after discharge.  Testing for 
acquired vWF deficiency was sent and is pending at the time of 
discharge.

# Pseudo-hyperkalemia: 
Suspect potassium level elevated in the setting of 
thrombocytosis.  Potassium level at admission reported 5.5, yet 
whole blood potassium (drawn in green top tube) a few hours 
later showed potassium of 3.6.  Suspect a pseudo-hyperkalemia 
from thrombocytosis.  His ACEI was held in the setting of 
bleeding.  Consider repeat potassium level in a green top tube 
as an outpatient prior to restarting ACEI. 

# Hypertension:
Continued home Amlodipine 10 mg daily, metoprolol succinate 50 
mg XL daily.  Lisinopril held in setting of hematuria.  Can 
likely restart in next few days.

# GERD:
Continued pantoprazole 40 mg daily

TRANSITIONAL ISSUES:
[] Follow-up pending vWF factor deficiency testing
[] Consider initiation of finasteride for enlarged prostate

> 30 minutes spent in discharge planning and counseling
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. LORazepam 0.5-1 mg PO QHS:PRN insomnia 
5. Pantoprazole 40 mg PO Q24H 
6. Vitamin D ___ UNIT PO DAILY 
7. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
8. Aspirin 81 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Hydroxyurea 500 mg PO DAILY  
2.  Polyethylene Glycol 17 g PO DAILY  
3.  Senna 17.2 mg PO HS  
4.  Ferrous Sulfate 325 mg PO 4X/WEEK (___)  
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
6.  amLODIPine 10 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  LORazepam 0.5-1 mg PO QHS:PRN insomnia  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria secondary to platelet dysfunction due to 
myeloproliferative disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with blood in your urine and the inability to 
urinate. We believe this is due to your new cancer diagnosis 
(JAK2+ Myeloproliferative disorder). After consulting with our 
Hematology and Urology colleagues, we placed a urine catheter 
with improvement of your urine output, decreasing blood in your 
urine, and stable blood counts (Hemoglobin). You were able to 
successfully urinate on your own once the catheter was removed. 
The plan is to follow up with Dr. ___ in ___ for further 
urologic management, and Dr. ___ in ___ for management of 
your Myeloproliferative disorder. 

Medications we have started: Hydroxyurea for your cancer, iron 
supplementation, Senna/Miralax to aid with constipation, 
Medications we have held: Lisinopril 
 
Followup Instructions:
___